US07667041B2
Synthesis of 4-bromo-5-fluoro-2-methoxyaniline
To a THF (20 mL) solution of 5-fluoro-2-methoxyaniline (1.76 g), a THF (30 mL) solution of pyridinium bromide perbromide (4.36 g) was added dropwise under ice-cooling, and the reaction solution was agitated for 30 minutes at room temperature. The solid which deposited from the reaction mixture was separated by filtering and the solid was washed by THF. After the obtained solid was dissolved with water and ethyl acetate, the aqueous layer was neutralized with a saturated sodium bicarbonate water, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane-ethyl acetate system), and 1.83 mg of the title compound was obtained.

reactant | 5-fluoro-2-methoxyaniline | 1.76 g | FC=1C=CC(=C(N)C1)OC | C7H8FNO
reactant | pyridinium bromide perbromide | 4.36 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromo-5-fluoro-2-methoxyaniline | 1.83 mg | BrC1=CC(=C(N)C=C1F)OC | C7H7BrFNO
